* Phase D: noise model + NQS sanity check (items #1 and #2 in PARASITICS).
*
* Items being checked:
*   #1: calibrated 1/f noise (NOIA, NOIB, NOIC, EM, AF, EF on noimod=2)
*       - parses and runs without "Error: ..." or "unknown parameter"
*       - .noise analysis from 1 Hz to 1 GHz completes
*   #2: non-quasi-static channel charge (nqsmod=1, elm=5)
*       - parses and doesn't break transient analysis
*       - tran with sub-ns timesteps converges (NQS adds an internal
*         channel-charge state variable, exercised by fast transients)
*
* Testbench: NMOS1V8 in common-source, light Rd load so V(d) is free to
* respond to noise injected at the gate via Vbias.
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=0
.param MM_ON=0

Vdd  vdd 0 1.8
Vbias g 0 1.0
Rd   vdd d 100k
X1   d g 0 0 NMOS1V8 W=10u L=1u M=1

.control
noise V(d) Vbias dec 5 1 1e9
tran 100p 10n
echo TRAN_OK
quit
.endc
.end
